US07495006B2
3-(3-tert-butyl-diphenyl-siloxymethyl-2-fluoro-cyclobutyl)-urea
In the Parr Hydrogenator flask with 1 mL AcOH and 10% Pd/C 0.15 g inside, 1-benzyl-3-(3-tert-butyl-diphenyl-siloxymethyl-2-fluoro-cyclobutyl)-urea in 5 mL AcOH was added. This was hydrogenolysed at 50 psi for 4 d, after which the crude mixture was filtered through celite and was purified by silica gel flash chromatography (CH2Cl2:MeOH=40:1) to give 0.15 g (63.3%, Rf=0.44 (CH2Cl2: MeOH=20:1) the desired product. IR (neat) νmax 3425, 3339, 2931, 2858, 1656, 1608, 1560, 1111, 701.

reactant | 1-benzyl-3-(3-tert-butyl-diphenyl-siloxymethyl-2-fluoro-cyclobutyl)-urea | C(C1=CC=CC=C1)NC(=O)NC1(C(C(C1(C1=CC=CC=C1)C1=CC=CC=C1)C(C)(C)C)F)CO[SiH3] | C29H35FN2O2Si
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 0.15 g | [Pd] | Pd
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
product | 3-(3-tert-butyl-diphenyl-siloxymethyl-2-fluoro-cyclobutyl)-urea | C(C)(C)(C)C1C(C(C1(C1=CC=CC=C1)C1=CC=CC=C1)(NC(N)=O)CO[SiH3])F | C22H29FN2O2Si
